US07285557B2
6-(4-chlorophenyl)-3-{3-methoxy-4-[(1-methyl-3-piperidinyl)methoxy]phenyl}thieno[3,2-d]pyrimidin-4(3H)-one
A solution containing 6-(4-chlorophenyl)-3-(4-hydroxy-3-methoxyphenyl)thieno[3,2-d]pyrimidin-4(3H)-one (77 mg, 0.20 mmol, the preparation of which may be found in Example K1) and 3-(chloromethyl)-1-methylpiperidine (74 mg) was mixed with Cs2CO3 (261 mg, 0.80 mmol) and the resultant mixture was heated at 85° C. for 3 hours. The mixture was then cooled to room temperature, diluted with dichlormethane, washed with a saturated solution of NaHCO3 and brine, dried (MgSO4), and concentrated under reduced pressure. The resultant residue was purified by column chromatography to provide the title compound.

reactant | 6-(4-chlorophenyl)-3-(4-hydroxy-3-methoxyphenyl)thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)O)OC | C19H13ClN2O3S
reactant | 3-(chloromethyl)-1-methylpiperidine | 74 mg | ClCC1CN(CCC1)C | C7H14ClN
reactant | Cs2CO3 | 0.80 mmol, 261 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dichlormethane | ClCCl | CH2Cl2
product | 6-(4-chlorophenyl)-3-{3-methoxy-4-[(1-methyl-3-piperidinyl)methoxy]phenyl}thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)OCC1CN(CCC1)C)OC | C26H26ClN3O3S
